US04431497
To a stirred slurry of 56 g of aluminum chloride in 150 ml of benzene under reflux was added dropwise 40 g of terephthaloyl chloride dissolved in 250 ml of benzene. When the addition was complete the reaction was refluxed for 15 minutes, cooled, and 250 ml of water was added slowly. The benzene layer was separated and the aqueous layer was extracted with methylene chloride (2×300 ml). The combined organic layers were washed with 1 M NaOH solution (2×400 ml) and water (400 ml), dried (MgSO4), filtered, and the solvents were removed under reduced pressure to a nearly colorless solid. Recrystallization from 95% ethanol gave 46.8 g of colorless 1,4-dibenzoylbenzene, m.p. 160°-162°. Reduction of 20 g of this material with 1.8 g of sodium borohydride in 250 ml of ethanol gave 14.2 g of colorless 1,4-dibenzylolbenzene m.p. 142°-145°.

reactant | aluminum chloride | 56 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | terephthaloyl chloride | 40 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | water | 250 ml | O | H2O
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1,4-dibenzoylbenzene | 46.8 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C20H14O2
